US07696223B2
c) [(1-Cyano-4-hydroxy-5-phenyl-5H-pyrido[4,3-b]indole-3-carbonyl)-amino]-acetic acid
Prepared in analogy to that of Example 1(e) from 1-cyano-4-hydroxy-5-phenyl-5H-pyrido[4,3-b]indole-3-carboxylic acid ethyl ester, glycine and NaOMe/HOMe. The title compound, ESI MS (m/z): 385 (M−1)−.

reactant | 1-cyano-4-hydroxy-5-phenyl-5H-pyrido[4,3-b]indole-3-carboxylic acid ethyl ester | C(C)OC(=O)C1=C(C=2N(C=3C=CC=CC3C2C(=N1)C#N)C1=CC=CC=C1)O | C21H15N3O3
reactant | glycine | NCC(=O)O | C2H5NO2
reactant | NaOMe HOMe | C[O-].[Na+].CO
product | [(1-Cyano-4-hydroxy-5-phenyl-5H-pyrido[4,3-b]indole-3-carbonyl)-amino]-acetic acid | C(#N)C1=NC(=C(C=2N(C=3C=CC=CC3C21)C2=CC=CC=C2)O)C(=O)NCC(=O)O | C21H14N4O4
